US05157041
1.3 g (2.79 mmol) of N-[[N-(benzyloxycarbonyl)-L-phenylalanyl]methyl]-L-proline tert.butyl ester was hydrogenated in a mixture of 10 ml of ethyl acetate and 10 ml of isopropyl alcohol in the presence of 0.39 g of 5% palladium-on-carbon and 1.06 g (5.58 mmol) of toluene-4-sulphonic acid and the product was coupled with 0.62 g (2.78 mmol) of N-(benzyloxycarbonyl)-L-alanine in the presence of 0.572 g (2.78 mmol) of dicyclohexylcarbodiimide, 0.375 g (2.78 mmol) of hydroxybenzotriazole and 0.64 g (5.57 mmol) of N-ethylmorpholine in a manner analogous to that described in Example 1. After working-up and chromatography on silica gel using 3% isopropanol in dichloromethane for the elution there was obtained 0.55 g of N-[[N-[N-(benzyloxycarbonyl)-L-alanyl]-L-phenylalanyl]-methyl]-L-proline tert.butyl ester as a solid; MS: m/e 538 [M+H]+.

reactant | N-[[N-(benzyloxycarbonyl)-L-phenylalanyl]methyl]-L-proline tert.butyl ester | 2.79 mmol, 1.3 g | C(C)(C)(C)OC([C@H]1N(CCC1)CC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C27H34N2O5
reactant | toluene-4-sulphonic acid | 5.58 mmol, 1.06 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N-(benzyloxycarbonyl)-L-alanine | 2.78 mmol, 0.62 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | dicyclohexylcarbodiimide | 2.78 mmol, 0.572 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydroxybenzotriazole | 2.78 mmol, 0.375 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethylmorpholine | 5.57 mmol, 0.64 g | C(C)N1CCOCC1 | C6H13NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
catalyst | palladium-on-carbon | 0.39 g | [Pd] | Pd
product | N-[[N-[N-(benzyloxycarbonyl)-L-alanyl]-L-phenylalanyl]-methyl]-L-proline tert.butyl ester | 0.55 g | C(C)(C)(C)OC([C@H]1N(CCC1)CC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)CC1=CC=CC=C1)=O)=O | C30H39N3O6
